US04472433
A mixture of ethyl 2-[2-amino-3-(2-chlorophenoxy)phenyl]acetate (11.8 g), methyl iodide (11.9 g) and potassium carbonate (10.7 g) in dried dimethylformamide (100 ml) was stirred at room temperature for 17 hrs. The reaction mixture was poured into water (400 ml) and extracted with diethyl ether (150 ml×2). The extract was washed with saline, dried over magnesium sulfate and evaporated in vacuo. The oily residue (12.7 g) was subjected to column chromatography on silica gel and eluted with a mixture of benzene and n-hexane (1:1) to give oily ethyl 2-[2-dimethylamino-3-(2-chlorophenoxy)phenyl]acetate (7.4 g).

reactant | ethyl 2-[2-amino-3-(2-chlorophenoxy)phenyl]acetate | 11.8 g | NC1=C(C=CC=C1OC1=C(C=CC=C1)Cl)CC(=O)OCC | C16H16ClNO3
reactant | methyl iodide | 11.9 g | CI | CH3I
reactant | potassium carbonate | 10.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 400 ml | O | H2O
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | ethyl 2-[2-dimethylamino-3-(2-chlorophenoxy)phenyl]acetate | 7.4 g | CN(C1=C(C=CC=C1OC1=C(C=CC=C1)Cl)CC(=O)OCC)C | C18H20ClNO3
